US05352684
H. 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-(6-bromohexanoyl)-4-(3-nitrophenyl)-pyridine
42 g (0.11 mol) 1-bromo-7-(3-nitrophenyl-methylene)-6,8-nonanedione and 22 g (0.22 mmol) 2-amino-2-penten-4-one are boiled under reflux in 270 ml methanol for 20 h. The mixture is concentrated and the residue is chromatographed over silica gel with toluene/acetone=95/5. The title compound is obtained as a yellow oil. Yield: 22 g (44%).

reactant | 1-bromo-7-(3-nitrophenyl-methylene)-6,8-nonanedione | 0.11 mol, 42 g | BrCCCCCC(C(C(C)=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C16H18BrNO4
reactant | 2-amino-2-penten-4-one | 0.22 mmol, 22 g | NC(C)=CC(C)=O | C5H9NO
solvent | methanol | 270 ml | CO | CH4O
product | 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-(6-bromohexanoyl)-4-(3-nitrophenyl)-pyridine | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCBr)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H25BrN2O4
